US04912135
Preparation of 3,5-bis(acetoxyacetylamino)-4-chlorobenzonitrile:
To a solution of 4-chloro-3,5-diaminobenzonitrile (6.7 g) in pyridine (150 ml) is added dropwise acetoxyacetyl chloride (9.5 ml) at room temperature. The mixture is stirred at room temperature for 3 hours, and thereafter, pyridine is distilled off under reduced pressure. To the residue is added water, and the resulting solid substance is separated by filtration and dissolved in chloroform, and the insoluble substance is filtered off. The filtrate is washed with water and then with aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and then distilled under reduced pressure to remove the solvent. The resulting solid substance is recrystallized from ethanol to give the title compound (4.3 g) having the following physical properties.

reactant | 4-chloro-3,5-diaminobenzonitrile | 6.7 g | ClC1=C(C=C(C#N)C=C1N)N | C7H6ClN3
reactant | acetoxyacetyl chloride | 9.5 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-bis(acetoxyacetylamino)-4-chlorobenzonitrile | 4.3 g | C(C)(=O)OCC(=O)NC=1C=C(C#N)C=C(C1Cl)NC(COC(C)=O)=O | C15H14ClN3O6
